US04287195
A mixture of 6 parts of methyl N-(2,2-dimethoxyethyl)-N'-[4-(4-methoxyphenyl)-1-piperazinyl]carbamimidothioate monohydroiodide and 30 parts of a hydrochloric acid solution 6 N is stirred and refluxed for 1 hour. The reaction mixture is cooled and adjusted to pH 10 with sodium hydroxide solution. The precipitated product is filtered off and crystallized from 4-methyl-2-pentanone, yielding 3.7 parts (100%) of 1-(4-methoxyphenyl)-4-[2-(methylthio)-1H-imidazol-1-yl]piperazine, mp. 140.1° C.

reactant | methyl N-(2,2-dimethoxyethyl)-N'-[4-(4-methoxyphenyl)-1-piperazinyl]carbamimidothioate monohydroiodide | I.COC(CNC(=NN1CCN(CC1)C1=CC=C(C=C1)OC)SC)OC
reactant | hydrochloric acid | 6 N | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-(4-methoxyphenyl)-4-[2-(methylthio)-1H-imidazol-1-yl]piperazine | 100% | COC1=CC=C(C=C1)N1CCN(CC1)N1C(=NC=C1)SC | C15H20N4OS
